US07642270B2
D. 8-Cyclopentyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
m-CPBA (0.45 g, 2.05 mmol of a 77% powder) was added to a solution of 8-cyclopentyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.27 g, 0.82 mmol) in DCM (5 mL). After 2 hours, a 10% solution of Na2SO3 (2 mL) was added and the mixture was partitioned between sat. NaHCO3 and DCM. The organic layer was dried (MgSO4) and concentrated to provide the title compound. Mass Spectrum (LCMS, ESI pos.) Calcd. For C16H19N3O5S: 365.10, found: (M+H) 366.1.

reactant | m-CPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 8-cyclopentyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.82 mmol, 0.27 g | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)SC)N(C1)C1CCCC1)=O | C16H19N3O3S
reactant | Na2SO3 | 2 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-Cyclopentyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCC1)=O | C16H19N3O5S
